2165-12-12 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Dyspnea
   24 Hour Events:
   Patient had some phlebitis at site of IV infusion of dobutamine.
   Turned off at 2AM, SBPs maintained >90.  Patient was started on lasix
   gtt.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-12-12**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 106 (92 - 115) bpm
   BP: 95/77(79) {70/43(28) - 133/79(88)} mmHg
   RR: 25 (18 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    645 mL
                                                                    385 mL
   PO:
                                                                    480 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    165 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                     25 mL
                                                                    100 mL
   Urine:
                                                                     25 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    620 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General: Alert and oriented x 3, NAD
   HEENT: ATNC, EOMI, no aniscoria
   Neck: supple, 12 cm JVD.  No carotid bruits
   Pulmonary: CTAB, no wheezes or rhonchi.
   Cardiac: irreg irreg, distant HS, no murmurs, rubs, or gallops.  RV
   heave, infero- laterally displaced PMI.
   Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly
   Extremities: 1+ LE edema, 2+ PT/DP pulses b/l, Cool (improved) LE
   Lymphatics: No cervical, supraclavicular, axillary or inguinal
   lymphadenopathy noted
   Skin: no echymoses
   Neuro: CN grossly intact
   Labs / Radiology
   235 K/uL
   11.7 g/dL
   213 mg/dL
   2.0 mg/dL
   19 mEq/L
   4.5 mEq/L
   50 mg/dL
   98 mEq/L
   133 mEq/L
   34.1 %
   12.6 K/uL
        [image002.jpg]
                             [**2165-12-12**]  05:00 AM
   WBC
   12.6
   Hct
   34.1
   Plt
   235
   Cr
   2.0
   TropT
   0.03
   Glucose
   213
   Other labs: PT / PTT / INR:20.0/150.0/1.9, CK / CKMB /
   Troponin-T:72//0.03, ALT / AST:[**Telephone/Fax (1) 3304**], Alk Phos / T Bili:148/0.6,
   Albumin:3.8 g/dL, LDH:[**2169**] IU/L, Mg++:2.6 mg/dL
   Assessment and Plan
   ASSESSMENT: 60 year old female with a hx of DM2, HTN, and CVA who
   presents with dyspnea x3 days, AFib, and new dilated CM with EF
   15-20%.
   PLAN:
   .
   CHF, systolic, new diagnosis:  Stable.  Patient's BPs improved to > 90s
   systolic.  Improved LE temps.  Presentation c/w cardiogenic shock.
   Patient off of dobutamine.  Patient's BPs have been low, likely
   compounded with AFib with RVR.
   - Will continue diuresis with lasix gtt, titrated to keeping SBP > 90
   AFib with RVR, new diagnosis:  Patient's rates have been poorly
   controlled, likely exacerbating CHF.  Demand likely etiology of
   elevation (mild) in trops.
   - Rate control with low dose metoprolol.
   - Continue heparin IV gtt
   - Continue ASA 325mg
   .
   Dilated Cardiomyopathy, new diagnosis:  Unclear etiology.  Given that
   patient has clear lungs, but is in heart failure, likely that this is a
   chronic process.  Pt had cath in [**5-14**] that was normal, performed
   because patient had CP during exercise MIBI (normal) and hypotension.
   EF at that time was > 55%.  Differential includes viral, metabolic,
   hemachromatosis, idiopathic.  Echo did not show evidence of amyloid.
   Patient's Fe studies are normal except for elevated ferritin, and TSH
   is WNL.  Urine tox was positive for cocaine which patient admits to.
   - Pending Hepatitis, CMV, EBV serologies; urine/serum tox
   .
   ARF: Baseline 0.8.  Cr of 2.0, worse than admission of 1.4.  Likely
   prerenal from poor forward flow and low SBPs.
   - Coninue lasix gtt and monitor UOP
   - I/Os
   .
   Transaminitis:  Patient
s AST > 1600, ALT 195.  Worsened from
   admission.  Unclear etiology, may be related to lab error.  Concern for
   possible embolization or shock liver if these values are indeed
   elevated.
   - Repeat Stat.  Order u/s if warranted.
   .
   ## DM2: HbA1C <6% on recent evaluation.
   -Will hold oral meds and initiate ISS.
   .
   ## FEN/Lytes: replete lytes prn, IVF prn
   .
   ## Prophylaxis: bowel regimen
   .
   ## Code status: Full
   .
   ## Dispo: CCU
           1. IV access: Peripheral line Order date: [**12-11**] @ 2208
   12. Furosemide 5 mg/hr IV DRIP INFUSION
   Please start if systolic blood pressure >95   Order date: [**12-12**] @ 0346
   2. IV access: Peripheral line Order date: [**12-11**] @ 2208
   13. Furosemide 20 mg IV ONCE Duration: 1 Doses Order date: [**12-12**] @ 0755
   3. 500 mL NS Bolus 500 ml Over 20 mins Order date: [**12-11**] @ 2208
   14. Heparin IV per Weight-Based Dosing Guidelines
   Order date: [**12-11**] @ 2208
   4. Acetaminophen [**Telephone/Fax (1) 179**] mg PO Q6H:PRN  Order date: [**12-11**] @ 2208
   15. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**12-11**] @ 2208
   5. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN  Order date: [**12-11**] @ 2208
   16. Ondansetron 4-8 mg IV Q4H:PRN  Order date: [**12-11**] @ 2208
   6. Aspirin 325 mg PO DAILY  Order date: [**12-11**] @ 2208
   17. Pravastatin 20 mg PO DAILY  Order date: [**12-11**] @ 2208
   7. Carvedilol 3.125 mg PO BID
   Hold for SBP <90, HR <60  Order date: [**12-12**] @ 0955
   18. Senna 1 TAB PO BID:PRN  Order date: [**12-11**] @ 2208
   8. Clopidogrel 75 mg PO DAILY  Order date: [**12-11**] @ 2208
   19. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-11**] @ 2208
   9. Docusate Sodium 100 mg PO BID  Order date: [**12-11**] @ 2208
   20. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-11**] @ 2208
   10. Fluoxetine 20 mg PO QMWF  Order date: [**12-11**] @ 2208
   21. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP TID:PRN RASH  Order
   date: [**12-11**] @ 2208
   11. Fluoxetine 40 mg PO QTTSS  Order date: [**12-11**] @ 2208

2165-12-13 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   LFTs peaked at [**2119**]/1090, trending down. Cr peaked at 2 now 1.7.
   Liver U/S showed no  obs, LENIs no DVT.  Started carvedilol, 15bt
   episode of VT, otherwise in Afib.  Lasix gtt titrated down to 2mg/hr
   (2L neg since 12am). Pt failed cardioversion this AM. Iron studies not
   c/w hemochromatosis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-12-13**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 117 (113 - 132) bpm
   BP: 106/75(81) {92/63(36) - 123/89(93)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.3 kg (admission): 93.3 kg
             Total In:
                                                                    936 mL
                                                                    196 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    696 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                  2,360 mL
   Urine:
                                                                  1,865 mL
                                                                  2,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -929 mL
                                                                 -2,164 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General: Alert and oriented x 3, NAD
   HEENT: ATNC, EOMI, no aniscoria
   Neck: supple, 12 cm JVD.  No carotid bruits
   Pulmonary: CTAB, no wheezes or rhonchi.
   Cardiac: irreg irreg, distant HS, no murmurs, rubs, or gallops.  RV
   heave, laterally displaced PMI.
   Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly
   Extremities: 1+ LE edema, 2+ PT/DP pulses b/l
   Lymphatics: No cervical, supraclavicular, axillary or inguinal
   lymphadenopathy noted
   Skin: no echymoses
   Labs / Radiology
   226 K/uL
   11.1 g/dL
   186 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.3 mEq/L
   59 mg/dL
   96 mEq/L
   133 mEq/L
   32.0 %
   12.8 K/uL
        [image002.jpg]
                             [**2165-12-12**]  05:00 AM
                             [**2165-12-12**]  01:14 PM
                             [**2165-12-13**]  03:25 AM
   WBC
   12.6
   12.8
   Hct
   34.1
   32.0
   Plt
   235
   226
   Cr
   2.0
   2.0
   1.7
   TropT
   0.03
   Glucose
   [**Telephone/Fax (3) 3345**]
   Other labs: PT / PTT / INR:19.3/78.8/1.8, CK / CKMB /
   Troponin-T:72//0.03, ALT / AST:1164/1430, Alk Phos / T Bili:162/0.7,
   Albumin:3.8 g/dL, LDH:1140 IU/L, Mg++:2.6 mg/dL
   Assessment and Plan
   60 year old female with a hx of DM2, HTN, and CVA who presents with
   dyspnea x3 days, AFib, and new dilated CM with EF 15-20%.
   PLAN:
   .
   CHF, systolic, new diagnosis:  Pt currently stable. SBP 90s-120s, on
   lasix drip, Cr and LFTs trending down.
   -Continue lasix
fluid balance goal
2L negative
   -Start Lisinopril
   .
   AFib with RVR, new diagnosis:  HR 113-132 on low dose carvedilol. One
   run of NSVT
   - Start PO amiodarone
   - DC carvedilol.
   - continue heparin IV gtt
   - Continue ASA 325mg
   .
   Dilated Cardiomyopathy, new diagnosis:  Unclear etiology.  Given that
   patient has clear lungs, but is in heart failure, likely that this is a
   chronic process.  Pt had cath in [**5-14**] that was normal, performed
   because patient had CP during exercise MIBI (normal) and hypotension.
   EF at that time was > 55%.
   - FU Hepatitis, CMV, EBV serologies
   - Consent/Send HIV, FU SPEP/UPEP
   .
   ARF: Cr trending down to 1.7 (baseline 0.8). Likely due to
   hypoperfusion.
   - Continue lasix
   - Start lisinopril
   - I/Os
   - FU PM lytes
   .
   Transaminitis:  Likely related to hypotension/CHF
   - LFTs trending down
   .
   ## DM2: HbA1C <6% on recent evaluation.
   -Will hold oral meds and initiate ISS.
   .
   ## FEN/Lytes: replete lytes prn, IVF prn
   .
   ## Prophylaxis: bowel regimen
   .
   ## Code status: Full
   .
   ## Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-12-11**] 10:00 PM
   18 Gauge - [**2165-12-12**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   12:58
   ------ Protected Section ------
   I have seen Ms [**Known lastname 3366**] and discussed her assessment and plan with the
   team and agree with the note above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3367**] [**Last Name (NamePattern1) 3368**], MD
   on:[**2165-12-13**] 15:48 ------

2165-12-14 06:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: CHF/Afib
   24 Hour Events:
   Pt failed cardioversion. Amiodarone load started. Pt net negative 3.6L,
   SBP 70s, lasix drip stopped. Diarrhea, stool sent for Cdiff. Tele: 7
   beats of VT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Amiodarone 400 mg PO TID
   Aspirin 325 mg PO DAILY
   Clopidogrel 75 mg PO DAILY
   Fluoxetine 20/40 mg PO
   Pravastatin 20 mg PO DAILY
   Lisinopril 5 mg PO DAILY
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-12-14**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 105 (104 - 134) bpm
   BP: 84/59(63)
   RR: 14 (12 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.3 kg (admission): 93.3 kg
             Total In:
                                                                    732 mL
                                                                    124 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                    582 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  4,330 mL
                                                                    250 mL
   Urine:
                                                                  4,330 mL
                                                                    200 mL
   NG:
   Stool:
   50 mL
   Drains:
   Balance:
                                                                 -3,598 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General: Alert and oriented x 3, NAD
   HEENT: ATNC, EOMI, no aniscoria
   Neck: supple, slight JVD.  No carotid bruits
   Pulmonary: bibasilar crackles, no wheezes or rhonchi.
   Cardiac: irreg irreg,  no murmurs, rubs, or gallops.  laterally
   displaced PMI.
   Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly
   Extremities: 1+ LE edema, 2+ PT/DP pulses b/l
   Lymphatics: No cervical, supraclavicular, axillary or inguinal
   lymphadenopathy noted
   Skin: no echymoses
   Labs / Radiology
   226 K/uL
   11.1 g/dL
   233 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.1 mEq/L
   50 mg/dL
   97 mEq/L
   135 mEq/L
   32.0 %
   12.8 K/uL
        [image002.jpg]
                             [**2165-12-12**]  05:00 AM
                             [**2165-12-12**]  01:14 PM
                             [**2165-12-13**]  03:25 AM
                             [**2165-12-13**]  03:13 PM
   WBC
   12.6
   12.8
   Hct
   34.1
   32.0
   Plt
   235
   226
   Cr
   2.0
   2.0
   1.7
   1.5
   TropT
   0.03
   Glucose
   [**Telephone/Fax (3) 3395**]33
   Other labs: PT / PTT / INR:18.7/74.0/1.7, CK / CKMB /
   Troponin-T:72//0.03, ALT / AST:1164/1430, Alk Phos / T Bili:162/0.7,
   Albumin:3.8 g/dL, LDH:1140 IU/L, Mg++:2.6 mg/dL
   Assessment and Plan
   60 year old female with a hx of DM2, HTN, and CVA who presents with
   dyspnea x3 days, AFib, and new dilated CM with EF 15-20%.
   PLAN:
   .
   CHF, systolic, new diagnosis:  Pt currently stable.
   -Negative 3.6L in 24hrs, Cr trending down.
   -Lasix drip stopped bc systolic bp in 80s.
   -Start Lasix 80mg iv
   -Lisinopril 5mg po daily
   .
   AFib with RVR, new diagnosis:  HR 104-130s.
   - PO amiodarone-loading
   - restart carvedilol
   - re: coumadin-- review neuro/stroke history, consider dc Plavix before
   starting
   - continue heparin IV gtt
   - Continue ASA 325mg
   .
   Dilated Cardiomyopathy, new diagnosis:  Unclear etiology.  Given that
   patient has clear lungs, but is in heart failure, likely that this is a
   chronic process.  Pt had cath in [**5-14**] that was normal, performed
   because patient had CP during exercise MIBI (normal) and hypotension.
   EF at that time was > 55%.
   - FU EBV, HIV, SPEP/UPEP serologies
   .
   ARF: Cr trending down to 1.5 (baseline 0.8). Likely due to
   hypoperfusion.
   - Lisinopril 5mg po
   - I/Os , Cr
   .
   Transaminitis:  Likely related to hypotension/CHF
   - FU LFTs, trending down as of yesterday
   .
   GI/Loose stool
   -FU CDiff studies
   .
   ## DM2: HbA1C <6% on recent evaluation.
   -Will hold oral meds and initiate ISS.
   -Check fsbg
s, meds
   .
   ## FEN/Lytes: replete lytes prn, IVF prn
   .
   ## Prophylaxis: bowel regimen
   .
   ## Code status: Full
   .
   ## Dispo: transfer to floor, change BP, trigger parameters
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-12-11**] 10:00 PM
   22 Gauge - [**2165-12-13**] 01:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   10:55